US20010020034A1
3-(2,5-Difluoro-4-methyl-benzyloxy)-5-(3-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl] -hexyl}-ureido)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-[4-(6-amino-hexyl)-piperazin-1-yl]-ethanol by the procedure analogous to Example 6. HPLC ret. time: 3.0 minutes. 1H NMR (400 MHz, CD3OD) δ 7.17 (d, 1H, J=6.4, 9.6 Hz), 7.01 (m, 1H), 5.44 (s, 2H), 3.64 (t, 2H, J= 5.6 Hz), 3.18 (t, 2H, J=6.8 Hz), 2.7-2.4 (bm, 8H), 2.50 (t, 2H, J=6.0 Hz), 2.33 (m, 2H), 2.23 (s, 3H), 1.50 (m, 4H), 1.35 (m, 4H) ppm; MS (APCl, m/z): 555 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 2-[4-(6-amino-hexyl)-piperazin-1-yl]-ethanol | NCCCCCCN1CCN(CC1)CCO | C12H27N3O
product | 3-(2,5-Difluoro-4-methyl-benzyloxy)-5-(3-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl] -hexyl}-ureido)-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCCCN2CCN(CC2)CCO)C=C(C(=C1)C)F | C25H36F2N6O4S
